### PR TITLE
Listerine tactic

### PR DESCRIPTION
**Pull request by awalterschulze**

### CODE REVIEW

**Comment by awalterschulze** [comment]
@mheiber @Nielius this is the listerine tactic I was talking about on the social call.

**Comment by awalterschulze** [comment]
Made a huge improvement.
By making listerine composable with auto, which just requires breaking up the exists and conj and disj a bit more, you get a super powerful tactic. `listerine; auto`.
See the diffs on the proofs here:
https://github.com/awalterschulze/regex-reexamined-coq/pull/81/commits/7328877408a3cd9ef41636f4230e9c5f3c2ac517

File: src/CoqStock/Listerine.v [hunk 1]
```diff
@@ -0,0 +1,488 @@
...
+  (* [] ++ xs = xs *)
+| [ |- context [[] ++ _] ] =>
+  rewrite app_nil_l
+  (* [] ++ xs = xs *)
+| [ H: context [_ ++ []] |- _ ] =>
+  rewrite app_nil_r in H
+  (* xs ++ [] = xs *)
+| [ |- context [_ ++ []] ] =>
+  rewrite app_nil_r
+  (* xs ++ [] = xs *)
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:60]: I wonder if these two matches (one for a goal, and one for a hypothesis, but using the same context), can be merged.

But I googled and I don't think so.

File: src/CoqStock/Listerine.v [hunk 2]
```diff
@@ -0,0 +1,488 @@
...
+list_empty.
+Qed.
+
+Example example_list_empty_eq_app: forall {A: Type} (xs: list A) (ys: list A),
+  xs ++ ys = [] -> xs = [].
+Proof.
+intros.
+list_empty.
+inversion H.
+assumption.
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:83]: Just a possibly interesting remark: these two lines (`inversion H. assumption.`) can be replaced by `easy`, but not by `auto`.
So the proof could also be: `intros. now list_empty.` (Because `now <tactic>` is defined as `<tactic>; easy` AFAIK.)

File: src/CoqStock/Listerine.v [hunk 3]
```diff
@@ -0,0 +1,488 @@
...
+Qed.
+
+Example example_list_empty_neq_unit_hyp_r: forall {A: Type} (x: A),
+  [] <> [x].
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:87]: Btw I think it's a good idea to have these test cases included.

File: src/CoqStock/Listerine.v [hunk 4]
```diff
@@ -0,0 +1,488 @@
...
+         (xs ++ ys) ++ [y]
+   - (x :: xs) ++ ys -> 
+         x :: (xs ++ ys)
+*)
+Local Ltac list_single :=
+match goal with
+  | [ H: ?XS ++ ?YS = [?X] |- _ ] =>
+    let H0 := fresh "H0"
+    in apply app_eq_unit in H; 
+       destruct H as [H0 | H0]; destruct H0; subst
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:146]: Nice one.

File: src/CoqStock/Listerine.v [hunk 5]
```diff
@@ -0,0 +1,488 @@
...
+   Finds an equality between lists in the hypotheses,
+   with a head element that can be deconstructed.
+   This hypothesis is inverted, cleared and variables are substituted.
+   (x :: xs) = (y :: ys) -> (x = y) /\ (xs = ys)
+*)
+Local Ltac list_cons_eq :=
+match goal with
+  | [H: (cons ?X ?XS) = (cons ?Y ?YS) |- _ ] =>
+    inversion H; clear H; subst
+    (* (x :: xs) = (y :: ys) -> (x = y) /\ (xs = ys) *)
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:198]: This one is actually very similar to the `xs ++ [x] = ys ++ [x] -> ...` case from above.

File: src/CoqStock/Listerine.v [hunk 6]
```diff
@@ -0,0 +1,488 @@
...
+- right.
+  list_single.
+  list_cons_eq.
+  exists ys.
+  exists eq_refl.
+  reflexivity.
+Qed.
+
+(* list_app_uncons:
+   Finds an hypotheses that it can deconstruct using the list_app_cons lemma:
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:272]: Typo: hypothesis

Comment (Nielius) [reply src/CoqStock/Listerine.v:272]: And do you mean: `using the list_app_uncons` lemma?

File: src/CoqStock/Listerine.v [hunk 7]
```diff
@@ -0,0 +1,488 @@
...
+  match goal with
+  | [ H: ?YS ++ ?ZS = cons ?X ?XS |- _ ] =>
+    let C := fresh "C"
+    in let E := fresh "E"
+    in let L := fresh "L"
+    in let E0 := fresh "E0"
+    in apply list_app_uncons in H;
+       destruct H as [C | E];
+       [inversion_clear C; subst
+       | inversion_clear E as [L E0]; inversion_clear E0; subst]
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:288]: Interesting. I don't quite understand what the `[inversion_clear ..... subst]` is supposed to do.

File: src/CoqStock/Listerine.v [hunk 8]
```diff
@@ -0,0 +1,488 @@
...
+  - y <> x -> x :: _ <> _ -> (y <> x -> ... -> False)
+*)
+Local Ltac list_cons_neq :=
+  match goal with
+  | [ H: ?X <> ?Y |- cons ?X _ <> cons ?Y _ ] =>
+    unfold not; intros; list_cons_eq; contradiction
+    (* x <> y -> x :: _ <> y :: _ *)
+  | [ H: ?X <> ?Y |- cons ?X _ <> _ ] =>
+    unfold not; intros; subst
+    (* x <> y -> _ <> x :: _ -> (x <> y -> ... -> False) *)
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:323]: I don't quite see why these four below are useful, but maybe I don't understand it yet. Does the `subst` do what you want? It looks to me like `subst` will not do anything (at least not in the general situation).

Comment (Nielius) [reply src/CoqStock/Listerine.v:323]: Could you give an example of where these last 4 match cases could be used? The example below uses the first match case.

File: src/CoqStock/Listerine.v [hunk 9]
```diff
@@ -0,0 +1,488 @@
...
+  || list_cons_eq
+  || list_app_eq
+  || list_app_uncons
+  || list_cons_neq
+  .
+
+Ltac listerine := repeat listerine_step.
+
+(* Lots of list theorems have been added to the auto database named: datatypes 
+   Here is an example of using `auto with datatypes`.
```
Comment (Nielius) [inline src/CoqStock/Listerine.v:358]: Interesting. Is `datatypes` some kind of built-in hint database?

**Comment by awalterschulze** [comment]
We discussed this all on the twitch stream https://www.twitch.tv/videos/642908332
